US07863271B2
A mixture of methyl 2-chlorobenzoxazole-4-carboxylate (620 mg, 2.96 mmol) and (3S,5S)-3,5-dimethylmorpholine (341 mg, 2.96 mmol) and potassium carbonate (1.0 g, 7.4 mmol), in DMF (15 mL), was stirred in a 35° C. oil bath. After 17 h, the reaction mixture was cooled to ambient temperature, diluted with H2O (50 mL) and extracted with EtOAc (2×30 mL). The combined organic layers were washed with H2O (3×20 mL), brine (20 mL), dried (Na2SO4), and concentrated under reduced pressure. Methyl 2-((3 S,5S)-3,5-dimethylmorpholino)benzoxazole-4-carboxylate (770 mg, 89%) was obtained as an amber oil. 1H NMR consistent.

reactant | methyl 2-chlorobenzoxazole-4-carboxylate | 2.96 mmol, 620 mg | ClC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H6ClNO3
reactant | (3S,5S)-3,5-dimethylmorpholine | 2.96 mmol, 341 mg | C[C@@H]1N[C@H](COC1)C | C6H13NO
reactant | potassium carbonate | 7.4 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
product | Methyl 2-((3 S,5S)-3,5-dimethylmorpholino)benzoxazole-4-carboxylate | 770 mg, 89% | C[C@H]1COC[C@@H](N1C=1OC=2C(N1)=C(C=CC2)C(=O)OC)C | C15H18N2O4
